US08633207B2
To 2-bromo-5-fluoropyrimidine (500 mg, 2.8 mmol) were added DMSO (1.5 mL), ethyl 2-bromo-2,2-difluoroacetate (0.4 mL, 3.1 mmol), and copper powder (390 mg, 6.16 mmol). The reaction vessel was sealed, and then evacuated and flushed with argon (2×). The mixture was heated at 50° C. overnight, then diluted with EtOH and filtered through Celite washing with EtOAc. To the filtrate was added water and the mixture was filtered through Celite again. The separated organic layer was washed with brine (2×), dried over sodium sulfate, and concentrated to afford ethyl 2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetate as an oil (470 mg, 76%). 1H NMR (300 MHz, CDCl3) δ 8.74 (s, 2H), 4.41 (q, J=7.2 Hz, 2H), 1.35 (t, J=7.2 Hz, 3H).

reactant | 2-bromo-5-fluoropyrimidine | 2.8 mmol, 500 mg | BrC1=NC=C(C=N1)F | C4H2BrFN2
reactant | ethyl 2-bromo-2,2-difluoroacetate | 3.1 mmol, 0.4 mL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
catalyst | copper | 6.16 mmol, 390 mg | [Cu] | Cu
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | ethyl 2,2-difluoro-2-(5-fluoropyrimidin-2-yl)acetate | 470 mg, 76% | FC(C(=O)OCC)(C1=NC=C(C=N1)F)F | C8H7F3N2O2
